US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)cyclopropanamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 4.3 mg (0.036 mMol) of cyclopropanecarbonyl chloride, the title compound was recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | cyclopropanecarbonyl chloride | 0.036 mMol, 4.3 mg | C1(CC1)C(=O)Cl | C4H5ClO
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)cyclopropanamide | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(=O)C3CC3)CC1)C | C18H22N2O2
